US07659268B2
6-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)isobenzofuran-1(3H)-one (39 mg, 0.15 mmol), N-(6-chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (37 mg, 0.10 mmol) and Pd(PPh3)4 (6 mg, 0.005 mmol) were placed in a microwave vial. DME (1 mL) and saturated aq. Na2CO3 (100 μL) were added and the reaction vial was flushed with N2 and sealed. The reaction was heated in the microwave at 120° C. for 20 minutes before it was partitioned between ethyl acetate and H2O. The organic layer was filtered and concentrated. The residue was dissolved in DMSO and purified by reverse-phase HPLC to yield 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(5-methyl-6-(3-oxo-1,3-dihydroisobenzofuran-5-yl)pyridin-2-yl)cyclopropanecarboxamide. ESI-MS m/z calc. 464.1, found 465.3 (M+1)+. Retention time 1.96 minutes. 1H NMR (400 MHz, DMSO-d6) δ 8.99 (s, 1H), 7.94-7.86 (m, 3H), 7.76-7.73 (m, 2H), 7.56 (d, J=1.5 Hz, 1H), 7.41-7.33 (m, 2H), 5.47 (s, 2H), 2.26 (s, 3H), 1.53-1.50 (m, 2H), 1.19-1.16 (m, 2H).

reactant | 6-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)isobenzofuran-1(3H)-one | 0.15 mmol, 39 mg | CC1(OB(OC1(C)C)C1=CC=C2COC(C2=C1)=O)C | C14H17BO4
reactant | N-(6-chloro-5-methylpyridin-2-yl)-1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.10 mmol, 37 mg | ClC1=C(C=CC(=N1)NC(=O)C1(CC1)C1=CC2=C(OC(O2)(F)F)C=C1)C | C17H13ClF2N2O3
reactant | Na2CO3 | 100 μL | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(PPh3)4 | 0.005 mmol, 6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DME | 1 mL | COCCOC | C4H10O2
product | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(5-methyl-6-(3-oxo-1,3-dihydroisobenzofuran-5-yl)pyridin-2-yl)cyclopropanecarboxamide | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC(=C(C=C2)C)C=2C=C1C(OCC1=CC2)=O)F | C25H18F2N2O5
